US05177077
1-[2-((4-fluorophenyl-(3-methyl-2-thienyl)methoxy)ethyl]-4-(3-phenylpropyl)piperazine
3.0 g (0.022 mol) potassium carbonate were added to a stirred solution of 1.5 g (0.006 mol) 4-(3-phenylpropyl)-1-piperazineethanol (GB Pat. No. 1545094) and 2.41 g (0.010 mol) (4-fluorophenyl)(3-methyl-2-thienyl)methyl chloride (e.g. German patent appl. DE 3726068) in 50 ml acetone. The mixture was refluxed for 2 h, then cooled and diluted with toluene (100 ml). The solution was washed twice with water and once with brine. Evaporation of the organic layer in vacuo yielded an oil, which was redissolved in 50 ml acetonitrile and treated with a solution of maleic acid in acetonitrile. The precipitate was filtered off, washed with diethylether and dried. Recrystallization from ethanol gave 2.88 g (70% of theoretical yield) of the title compound as the dimaleate salt, white solid, m.p. 146°-47° C.

reactant | potassium carbonate | 0.022 mol, 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(3-phenylpropyl)-1-piperazineethanol | 0.006 mol, 1.5 g | C1(=CC=CC=C1)CCCN1CCN(CC1)CCO | C15H24N2O
reactant | (4-fluorophenyl)(3-methyl-2-thienyl)methyl chloride | 0.010 mol, 2.41 g | FC1=CC=C(C=C1)C(C=1SC=CC1C)Cl | C12H10ClFS
reactant | maleic acid | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-((4-fluorophenyl-(3-methyl-2-thienyl)methoxy)ethyl]-4-(3-phenylpropyl)piperazine | FC1=CC=C(C=C1)C(OCCC1NCCN(C1)CCCC1=CC=CC=C1)C=1SC=CC1C | C27H33FN2OS
